Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[H:1][C:2]=[C:3]([O:4][C:5]([H:6])=[C:7][H:8])[C:10]([H:11])([H:12])[H:13].[H:9]>>[H:1][C:2]=[C:3]([O:4][C:5]([H:6])=[C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[H:13],-5.11872075052
[C:6]([H:7])([H:8])[O:9][H:10].[O:1]=[C:2]([H:3])[C:4]#[C:5]>>[O:1]=[C:2]([H:3])[C:4]#[C:5][C:6]([H:7])([H:8])[O:9][H:10],-5.33760214075
[C:5]([H:6])([H:7])[C:8]([H:9])=[C:10]([H:11])[H:12].[H:1][O:2][C:3]=[O:4]>>[H:1][O:2][C:3][O:4][C:5]([H:6])([H:7])[C:8]([H:9])=[C:10]([H:11])[H:12],-1.4689896583000002
[H:1][O:2][C:3]([H:4])([O:5][H:6])[C:7]([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15]>>[H:11].[H:1][O:2][C:3]([H:4])([O:5][H:6])[C:7](=[C:8]([H:9])[H:10])[C:12]([H:13])([H:14])[H:15],1.93894117034
[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])[H:12]>>[H:9].[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])=[C:10]([H:11])[H:12],1.7562252874700002
[H:1][O:2]/[C:3]=[C:4](\[O:5][H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13]>>[C:4][O:5][H:6].[H:1][O:2][C:3][C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13],3.89185242579
[H:1][O:2]/[C:3]([H:4])=[C:5]/[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[C:13]([H:14])[H:15].[H:6]>>[H:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[C:13]([H:14])[H:15],-4.9096518991
[H:1][C:2]=[C:3]([H:4])/[C:5]([H:6])=[C:8]/[C:9]([H:10])([H:11])[H:12].[H:7]>>[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[C:8][C:9]([H:10])([H:11])[H:12],-1.62720068727
[C:1].[C:2]([C:3]([H:4])=[C:5][H:6])[C:7]([H:8])([H:9])[O:10][H:11]>>[C:1]=[C:2]([C:3]([H:4])=[C:5][H:6])[C:7]([H:8])([H:9])[O:10][H:11],-6.923287783889999
[H:1][C:2]=[C:3]([H:4])[C@@:8]([C:5]([H:6])[H:7])([H:9])[C:10]#[C:11][H:12]>>[H:1][C:2][C@:3]1([H:4])[C:5]([H:6])([H:7])[C@@:8]1([H:9])[C:10]#[C:11][H:12],-0.33099299551
[H:12].[O:1]=[C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[C:10]#[C:11]>>[O:1]=[C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[C:10]#[C:11][H:12],-5.97974889439
[H:1][O:2][C:3]1=[C:4]([H:5])[C@@:6]1([O:7][H:8])[C:9]([H:10])[H:11]>>[H:1][O:2][C:3](=[C:4]([H:5])[H:11])/[C:6](=[C:9]/[O:7][H:8])[H:10],-0.925961098928
[H:3].[O:1]=[C:2]=[C:4]([H:5])[O:6][C:7][H:8]>>[O:1]=[C:2]([H:3])[C:4]([H:5])[O:6][C:7][H:8],-2.51097655489
[C:6]([H:7])=[C:8]([H:9])[C:10]([H:11])([H:12])[H:13].[O:1][O:2][C:3]([H:4])[H:5]>>[O:1][O:2][C:3]([H:4])([H:5])/[C:6]([H:7])=[C:8](\[H:9])[C:10]([H:11])([H:12])[H:13],-3.5475820116900003
[H:1][C:2][O:3][C:4]#[C:5][O:6][H:7]>>[H:1][C:2][O:3][C:4]#[C:5].[O:6][H:7],6.5535515348
[H:1][O:2][C:3]([H:4])([H:5])[C:6]#[C:7][C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15].[H:8]>>[H:1][O:2][C:3]([H:4])([H:5])/[C:6]=[C:7](\[H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15],-1.87061310051
[C:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7][C:8]#[C:9][H:10]>>[C:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7]#[C:8][C:9].[H:10],3.80698027983
[H:6].[O:1]=[C:2]([H:3])[C:4]([C:5]#[C:7][H:8])[C:9]([H:10])([H:11])[H:12]>>[O:1]=[C:2]([H:3])/[C:4](=[C:5](\[H:6])[C:7][H:8])[C:9]([H:10])([H:11])[H:12],-1.23701590436
[C:1]#[C:2][O:3][C:4]#[C:5][C:6]([H:7])([H:8])[H:9]>>[C:1]#[C:2].[O:3][C:4]#[C:5][C:6]([H:7])([H:8])[H:9],3.0661069716400005
[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])/[C:9]([H:10])=[C:11]/[C:12]([H:13])([H:14])[H:15]>>[H:1].[O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])/[C:9]([H:10])=[C:11]\[C:12]([H:13])([H:14])[H:15],4.54707529216
[C:2](#[C:3][H:4])[C:5]([H:6])([H:7])[O:8][H:9].[O:1]>>[O:1]=[C:2]([C:3][H:4])[C:5]([H:6])([H:7])[O:8][H:9],-2.84465968677
[C:3]([H:4])([H:5])=[C:6][C:7]([H:8])([H:9])[H:10].[O:1]=[C:2]>>[O:1]=[C:2][C:3]([H:4])([H:5])[C:6][C:7]([H:8])([H:9])[H:10],2.09708024272
[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])[O:8][C:9]([H:10])=[C:11]([H:12])[H:13]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6][O:8][C:9]([H:10])=[C:11]([H:12])[H:13].[H:7],3.85308918461
[C:4][O:5][H:6].[H:1][C:2]#[C:3][C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13]>>[H:1][C:2]=[C:3]([C:4][O:5][H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13],-0.6696577059100001
[H:1][C:2]([H:3])([H:4])[C:5]1([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[O:13][C:14]1([H:15])[H:16]>>[H:1][C:2]([H:3])([H:4])[C:5]([C:6]([H:7])([H:8])[H:9])[C:14]([O:13][C:10]([H:11])[H:12])([H:15])[H:16],2.51508528
[O:1]=[C:2]([C:3]([H:4])[H:5])[C:6]([O:7][H:8])[C:9]([H:10])([H:11])[H:12]>>[O:1]=[C:2]1[C:3]([H:4])([H:5])[C@:6]1([O:7][H:8])[C:9]([H:10])([H:11])[H:12],-0.540738114219
[C:7]([H:8])[C:9]([H:10])([H:11])[H:12].[O:1][O:2][C:3]([H:4])=[C:5][H:6]>>[O:1][O:2]/[C:3]([H:4])=[C:5](/[H:6])[C:7]([H:8])[C:9]([H:10])([H:11])[H:12],-6.72766719408
[H:1][O:2][C:3]#[C:4][C:5]([H:6])[O:7][H:8]>>[C:5]([H:6])[O:7][H:8].[H:1][O:2][C:3]#[C:4],5.224187071369999
[H:1][C:2]([H:3])([C:4]#[C:5][C:9]([H:10])([H:11])[H:12])[C:13]=[C:8]([H:6])[H:7]>>[H:1][C:2]1([H:3])[C:4][C:5]([H:6])([H:7])[C:8]([C:9]([H:10])([H:11])[H:12])=[C:13]1,1.6888571198700002
